US05105021
According to this reference, 1 mole of sodium salt of p-hydroxybenzo-nitrile and 1.7 moles of dibromodifluoromethane are dissolved in dimethylformamide, stirred at the room temperature for a day and distilled to obtain desired p-(bromodifluoromethoxy)-benzonitrile. However, the yield is only about 31.8%.

reactant | sodium | 1 mole | [Na] | Na
reactant | p-hydroxybenzo-nitrile | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | dibromodifluoromethane | 1.7 moles | BrC(F)(F)Br | CBr2F2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | p-(bromodifluoromethoxy)-benzonitrile | BrC(OC1=CC=C(C#N)C=C1)(F)F | C8H4BrF2NO
